US04528382
N-Octyl 4-Chlorobenzimidoyl Chloride
N-Octyl 4-chlorobenzamide (17.2 g, 64.2 mmole) and thionyl chloride (42.59 g, 358 mmole) were stirred and heated at reflux for one hour. The product was isolated by fractional distillation at reduced pressure (b.p. 70°-90° C. at 15 mm Hg) to yield 14.0 g (77%) of impure title compound.

reactant | N-Octyl 4-chlorobenzamide | 64.2 mmole, 17.2 g | C(CCCCCCC)NC(C1=CC=C(C=C1)Cl)=O | C15H22ClNO
reactant | thionyl chloride | 358 mmole, 42.59 g | S(=O)(Cl)Cl | Cl2OS
product | N-Octyl 4-Chlorobenzimidoyl Chloride | 14.0 g, 77% | C(CCCCCCC)N=C(C1=CC=C(C=C1)Cl)Cl | C15H21Cl2N
